US05606010
Preparation of poly-(2-phenyl-benzoquinone-1,12-diaminododecane) polymer
About 14.54 g (0.0782 mol) 2-phenyl-hydrooquinone, about 0.2 g (0.0018 mol) catechol (chemical name 1,2-dihydroxybenzene) and about 16 g (0.08 mol) 1,12diaminododecane were dissolved in a solvent mixture comprising of about 30 mL of 1,2,3trichloropropane and 60 mL of trichloroethylene. Oxygen was then passed at a flow rate of about 50 cc/min through the solution for about one hour. About 0.2 g of cupric sulfate was then added to the reaction mixture. Oxygen flow was reinstated for about an additional two hours. At the end of the polymerization reaction most of the trichloroethylene was removed under high vacuum, without raising the temperature above 35° C. This solution of poly-(2-phenyl-benzoquinone-1,12-diaminododecane) polymer can be used directly for coating purposes.

reactant | catechol | 0.0018 mol, about 0.2 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | 1,12diaminododecane | 0.08 mol, about 16 g | NCCCCCCCCCCCCN | C12H28N2
reactant | Oxygen | O=O | O2
solvent | 1,2,3trichloropropane | about 30 mL | ClCC(CCl)Cl | C3H5Cl3
solvent | trichloroethylene | 60 mL | ClC=C(Cl)Cl | C2HCl3
product | 2-phenyl-benzoquinone 1,12-diaminododecane | C1(=CC=CC=C1)C=1C(C=CC(C1)=O)=O.NCCCCCCCCCCCCN | InChI=1S/C12H28N2.C12H8O2/c13-11-9-7-5-3-1-2-4-6-8-10-12-14;13-10-6-7-12(14)11(8-10)9-4-2-1-3-5-9/h1-14H2;1-8H
